US08383638B2
4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile was prepared by the procedure described for the synthesis of 4-pyridin-2-ylpiperidine-4-carbonitrile in Example 1, substituting 2-fluoro-4-methylpyridine for 2-fluoropyridine.

reactant | 4-pyridin-2-ylpiperidine-4-carbonitrile | N1=C(C=CC=C1)C1(CCNCC1)C#N | C11H13N3
reactant | 2-fluoropyridine | FC1=NC=CC=C1 | C5H4FN
product | 4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile | CC1=CC(=NC=C1)C1(CCNCC1)C#N | C12H15N3
